US06586617B1
Synthesis of 4′-Methoxymethoxy-N-methyl-2′-nitro-p-toluenesulfonanilide (Compound No. 219)
To a suspension of sodium hydride (60%, 0.40 g (10.0 mmol)) in 15.0 ml of DMF, 4′-methoxymethoxy-2′-nitro-p-toluenesulfonanilide (3.00 g (8.51 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, dimethyl sulfate (1.0 ml (10.6 mmol)) was added and the mixture was stirred for 15 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography with ethyl acetate-hexane (1:2) to give 2.91 g (93%) of the title compound as yellow crystals.

reactant | sodium hydride | 10.0 mmol, 0.40 g | [H-].[Na+]
reactant | 4′-methoxymethoxy-2′-nitro-p-toluenesulfonanilide | 8.51 mmol, 3.00 g | COCOC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C15H16N2O6S
reactant | dimethyl sulfate | 10.6 mmol, 1.0 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | DMF | 15.0 ml | CN(C)C=O | C3H7NO
product | 4′-Methoxymethoxy-N-methyl-2′-nitro-p-toluenesulfonanilide | 2.91 g, 93% | COCOC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C16H18N2O6S
